US04438267
B. 2,4-Diamino-5-(4-methoxy-1-naphthylmethyl)pyrimidine hydrochloride
To 65 mL of ethanolic guanidine solution prepared from 3.42 g (35.8 mmol) of guanidine hydrochloride and 2.00 g (37.0 mmol) of sodium methoxide was added 9.00 g (28.6 mmol) of 3-anilino-2-(4-methoxy-1-naphthylmethyl)acrylonitrile. The solution was heated under reflux for 1.5 hr, and then 60 mL of 2-methoxyethanol was added. The internal temperature was allowed to gradually increase to 108° by distillation of the ethanol, after which it was heated at this temperature for 2.5 hr. The hot mixture was filtered, and the precipitate (7.04 g, 87% of crude product) recrystallized from 30% ethanol in the presence of hydrochloric acid, to give the title compound; mp 312°-314° dec. Anal. Calcd for C16H16N4O.HCl: C, 60.66; H, 5.41; N, 17.69; Cl, 11.19. Found: C, 60.67; H, 5.45; N, 17.70; Cl, 11.19.

reactant | guanidine | 65 mL | NC(=N)N | CH5N3
reactant | guanidine hydrochloride | 35.8 mmol, 3.42 g | Cl.NC(=N)N
reactant | sodium methoxide | 37.0 mmol, 2.00 g | C[O-].[Na+]
reactant | 3-anilino-2-(4-methoxy-1-naphthylmethyl)acrylonitrile | 28.6 mmol, 9.00 g | N(C1=CC=CC=C1)C=C(C#N)CC1=CC=C(C2=CC=CC=C12)OC | C21H18N2O
solvent | ethanol | C(C)O | C2H6O
solvent | 2-methoxyethanol | 60 mL | COCCO | C3H8O2
product | 2,4-Diamino-5-(4-methoxy-1-naphthylmethyl)pyrimidine hydrochloride | Cl.NC1=NC=C(C(=N1)N)CC1=CC=C(C2=CC=CC=C12)OC | InChI=1S/C16H16N4O.ClH/c1-21-14-7-6-10(12-4-2-3-5-13(12)14)8-11-9-19-16(18)20-15(11)17;/h2-7,9H,8H2,1H3,(H4,17,18,19,20);1H
